US04659718
A solution of butyl lithium in hexane (2.7M, 104 ml) was added slowly to a stirred solution of 1,5-dimethyltetrazole (27.5 g) in dry tetrahydrofuran (500 ml) at -5° to 0° under nitrogen. After stirring for 1.5 hours, 7-bromo-1H-3,1-benzoxazine-2,4-dione (22.6 g) was added and stirring continued for 18 hours at room temperature and for 3.5 hours at 40° to 50°. The mixture was cooled to room temperature, industrial methylated spirit (15 ml) added and most of the solvents distilled off. The residue was added to water (200 ml) and acidified with 5N hydrochloric acid to pH 1. The resulting solid was collected by filtration and crystallised from ethyl acetate to give the novel compound 1-(2-amino-4-bromophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone, m.p. 159°-160°.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 27.5 g | CN1N=NN=C1C | C3H6N4
reactant | 7-bromo-1H-3,1-benzoxazine-2,4-dione | 22.6 g | BrC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4BrNO3
solvent | hexane | 2.7M, 104 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-(2-amino-4-bromophenyl)-2-(1-methyl-1H-tetrazol-5-yl)ethanone | NC1=C(C=CC(=C1)Br)C(CC1=NN=NN1C)=O | C10H10BrN5O
